US08293735B2
4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-2-carbonitrile
4,4,5,5-Tetramethyl-[1,3,2]dioxaborolane (2.1 mL, 14.5 mmol) was added drop-wise to a mixture of 4-bromo-1H-indole-2-carbonitrile (1.27 g, 5.8 mmol), palladium acetate (33 mg, 0.145 mmol), triethylamine (1.21 mL, 8.7 mmol) and 2-(dicyclohexylphosphino)biphenyl (203 mg, 0.58 mmol) in dioxane at 80° C. The reaction mixture was stirred at 80° C. for 5 h then allowed to stand at RT overnight. The reaction mixture was diluted with DCM and washed with water, then the organic layer was isolated, dried (MgSO4) then concentrated in vacuo. The resultant crude material was purified by column chromatography to afford the title compound as a brown solid (1.02 g, 66%).

reactant | 4,4,5,5-Tetramethyl-[1,3,2]dioxaborolane | 14.5 mmol, 2.1 mL | CC1(OBOC1(C)C)C | C6H13BO2
reactant | 4-bromo-1H-indole-2-carbonitrile | 5.8 mmol, 1.27 g | BrC1=C2C=C(NC2=CC=C1)C#N | C9H5BrN2
reactant | triethylamine | 8.7 mmol, 1.21 mL | C(C)N(CC)CC | C6H15N
reactant | 2-(dicyclohexylphosphino)biphenyl | 0.58 mmol, 203 mg | C1(CCCCC1)P(C1=C(C=CC=C1)C1=CC=CC=C1)C1CCCCC1 | C24H31P
solvent | dioxane | O1CCOCC1 | C4H8O2
solvent | DCM | C(Cl)Cl | CH2Cl2
catalyst | palladium acetate | 0.145 mmol, 33 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-1H-indole-2-carbonitrile | 1.02 g, 66% | CC1(OB(OC1(C)C)C1=C2C=C(NC2=CC=C1)C#N)C | C15H17BN2O2
